US07119088B2
Morpholine-2,4-dicarboxylic acid 4-tert-butyl ester 2-ethyl ester
A mixture of 4-phenylmethyl-2-morpholinecarboxylic acid ethyl ester (J. Med. Chem. 1993, 36(6), 683–9), (8.4 g, 32.4 mmol), di-tert-butyl dicarbonate (8.47 g, 38.9 mmol), 1-methyl-1,4-cyclohexadiene (12.37 ml, 110 mmol) and 10% palladium on charcoal (900 mg) in ethanol (330 ml) was heated to 88° C. for 22 hours. TLC analysis showed starting material remaining, so the reaction was cooled, and additional 1-methyl-1,4-cyclohexadiene (2.37 ml, 21 mmol) and 10% palladium on charcoal (900 mg) were added, and the reaction mixture heated for a further 12 hours at 88° C. The cooled mixture was filtered through Arbocel® and the filtrate evaporated under reduced pressure. The residual brown oil was purified by column chromatography on silica gel using an elution gradient of dichloromethane:methanol (100:0 to 95:5) to give the title compound as a pale yellow oil, 5.97 g.

reactant | 4-phenylmethyl-2-morpholinecarboxylic acid ethyl ester | 32.4 mmol, 8.4 g | C(C)OC(=O)C1CN(CCO1)CC1=CC=CC=C1 | C14H19NO3
reactant | di-tert-butyl dicarbonate | 38.9 mmol, 8.47 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 1-methyl-1,4-cyclohexadiene | 110 mmol, 12.37 ml | CC1=CCC=CC1 | C7H10
reactant | 1-methyl-1,4-cyclohexadiene | 21 mmol, 2.37 ml | CC1=CCC=CC1 | C7H10
catalyst | palladium on charcoal | 900 mg | [Pd] | Pd
solvent | ethanol | 330 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 900 mg | [Pd] | Pd
product | Morpholine-2,4-dicarboxylic acid 4-tert-butyl ester 2-ethyl ester | CCOC(=O)C1CN(CCO1)C(=O)OC(C)(C)C | C12H21NO5
